US06911469B2
6-(Methoxycarbonyl)-3-methyl-1H-indazole
6-(Methoxycarbonyl)-3-methyl-1H-indazole methanol (50 ml), and concentrated sulfuric acid (0.1 ml) was added. The mixture was heated under reflux for 22 hr. After cooling, a saturated aqueous sodium hydrogencarbonate solution was added and the methanol was distilled away under reduced pressure. The residue was extracted with ethyl acetate, and the organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The drying agent was filtered off and the filtrate was concentrated under reduced pressure to give the objective compound (340 mg, 87%) as brown crystals.

reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 6-(Methoxycarbonyl)-3-methyl-1H-indazole methanol | 50 ml | COC(=O)C1=CC=C2C(NNC2=C1)(CO)C | C11H14N2O3
product | 6-(Methoxycarbonyl)-3-methyl-1H-indazole | 340 mg, 87% | COC(=O)C1=CC=C2C(=NNC2=C1)C | C10H10N2O2
